US07892454B2
To a suspension of maleic anhydride (3.0 g, 30.6 mmol) in 80 mL of benzene, a solution of octylamine (3.59 g, 27.8 mmol) in 50 mL of benzene was added. The resulting mixture was stirred at 30° C. for an hour and zinc bromide (ZnBr2, 6.89 g, 30.6 mmol) and hexamethyl disilazane (6.72 g, 41.7 mmol) in 20 mL of benzene were added. The resulting suspension was heated under reflux for 2 hours. After cooling to room temperature, the reaction mixture was poured into 200 mL of 0.5 M hydrochloric acid (HCl). The organic layer was separated and the aqueous portion was extracted twice with 150 mL portions of ethyl acetate (EtOAc). The combined organic layers were washed with saturated aqueous sodium bicarbonate (NaHCO3, 2×150 mL), brine (1×150 mL), and dried over magnesium sulfate (MgSO4). The solution was concentrated under vacuum to yield a viscous solid, which is subsequently sublimed to produce N-octylmaleimide as a white solid (4.8 g, 92%). 1H NMR (400 MHz, CDCl3): δ 0.87 (t, 3H, J=6 Hz), 1.20-1.40 (m, 10H), 1.50-1.70 (m, 2H), 3.51 (t, 2H, J=6 Hz), 6.69 (s, 2H).

reactant | maleic anhydride | 30.6 mmol, 3.0 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | octylamine | 27.8 mmol, 3.59 g | C(CCCCCCC)N | C8H19N
reactant | hexamethyl disilazane | 41.7 mmol, 6.72 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | hydrochloric acid | 0.5 M, 200 mL | Cl | ClH
solvent | benzene | 80 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
catalyst | zinc bromide | 30.6 mmol, 6.89 g | [Br-].[Zn+2].[Br-]
product | N-octylmaleimide | 4.8 g, 92% | C(CCCCCCC)N1C(C=CC1=O)=O | C12H19NO2
